US04077982
5-(2-Fluorobenzyloxy)-5-methyl-2-thienyl-1,3-dioxane
Using the procedure of Example 51, thiophene-2-carboxaldehyde and 2-(2-fluorobenzyloxy)-2-methyl-1,3-propanediol were reacted, using benzene as solvent, to give, after separation by column chromatograph, c-5-(2-fluorobenzyloxy)-5-methyl-r-2-thienyl-1,3-dioxane, m.p. 111°-112°, and t-5-(2-fluorobenzyloxy)-5-methyl-r-2-thienyl-1,3-dioxane, m.p. 84°-85°.

reactant | thiophene-2-carboxaldehyde | S1C(=CC=C1)C=O | C5H4OS
reactant | 2-(2-fluorobenzyloxy)-2-methyl-1,3-propanediol | FC1=C(COC(CO)(CO)C)C=CC=C1 | C11H15FO3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-(2-Fluorobenzyloxy)-5-methyl-2-thienyl-1,3-dioxane | FC1=C(COC2(C=CC(S2)C2OCCCO2)C)C=CC=C1 | C16H19FO3S
